US08975254B2
b) 4-amino-2,6-dichlorobenzonitrile
The title compound was prepared from the reaction of 4-bromo-3,5-dichloroaniline (6.88 g, 28.6 mmol) and Copper(I)cyanide (2.56 g, 28.6 mmol) in DMF (48 mL) under microwave irradiation at 190° C. for 1 h. After the completion of the reaction, the mixture was cooled to RT and quenched with 200 mL of 12% ammonia solution. The resultant mixture was stirred for 30 min at RT and the precipitate was filtered, washed with water and dried under vacuum. Yield 3.725 g. 1H NMR (400 MHz; d6-DMSO): δ 6.70 (s, 1H), 6.79 (s, 1H).

reactant | 4-bromo-3,5-dichloroaniline | 28.6 mmol, 6.88 g | BrC1=C(C=C(N)C=C1Cl)Cl | C6H4BrCl2N
reactant | Copper(I)cyanide | 28.6 mmol, 2.56 g | [Cu]C#N
solvent | DMF | 48 mL | CN(C)C=O | C3H7NO
product | 4-amino-2,6-dichlorobenzonitrile | NC1=CC(=C(C#N)C(=C1)Cl)Cl | C7H4Cl2N2
